US07618996B2
Preparation of Intermediate 7-Hydroxy-2,2-dimethyl-benzo[1,3]dioxin-4-one (I-1a)
A suspension of 2,4-dihydroxybenzoic acid (85.0 g) in trifluoroacetic acid (800 mL) was cooled in an ice/water bath as trifluoroacetic anhydride (500 mL) followed by the addition of acetone (100 mL). After the addition was complete, the ice/water bath was removed and the reaction mixture stirred for 24 hours before the volatiles were removed under vacuum using a rotary evaporator. The residue was cautiously added to a water/sodium bicarbonate suspension to afford a neutralized mixture. The mixture was extracted with ethyl acetate and the combined organic phases were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was triturated with dichloromethane to afford the product (I-1a) as an off-white solid.

reactant | 2,4-dihydroxybenzoic acid | 85.0 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | trifluoroacetic anhydride | 500 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | acetone | 100 mL | CC(=O)C | C3H6O
solvent | trifluoroacetic acid | 800 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Hydroxy-2,2-dimethyl-benzo[1,3]dioxin-4-one | OC1=CC2=C(C(OC(O2)(C)C)=O)C=C1 | C10H10O4
